US04529548
(11β,17β)-17-(Ethylthio)-9-fluoro-11-hydroxyandrosta-1,4-dien-3-one
To a homogeneous solution of 600 mg (1.66 mmole) of 17-(ethylthio)-9-fluoro-11β-hydroxyandrosta-1,4,16-trien-3-one in a mixture of dry dichloromethane (60 ml) and trifluoroacetic acid (207 mg) was added triethylsilane (230 mg) and the mixture was stirred at room temperature under a nitrogen atmosphere for 2.5 hours. Since the tlc of an aliquot showed incomplete reaction, more trifluoroacetic acid (207 mg) and triethylsilane (230 mg) were added. After 1.5 hours the starting material had disappeared by tlc. The resulting solution was diluted with dichloromethane, washed with saturated sodium bicarbonate solution and water, dried (anhydrous sodium sulfate) and evaporated in vacuo to give a solid. This was redissolved in 1:4 hexane chloroform and chromatographed on a 30 g silica gel column. Elution with 1:4 hexane-chloroform, chloroform and 5:95 ethyl acetate-chloroform gave 520 mg of a tlc-homogeneous title compound. Crystallization from acetone-hexane gave 410 mg of an analytical specimen, melting point 223°-225° C., with consistent spectral data.

reactant | 17-(ethylthio)-9-fluoro-11β-hydroxyandrosta-1,4,16-trien-3-one | 1.66 mmole, 600 mg | C(C)SC=1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@]1([C@H](C2)O)F)=O | C21H27FO2S
reactant | trifluoroacetic acid | 207 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 230 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 207 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 230 mg | C(C)[SiH](CC)CC | C6H16Si
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | hexane chloroform | C(Cl)(Cl)Cl.CCCCCC
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | (11β,17β)-17-(Ethylthio)-9-fluoro-11-hydroxyandrosta-1,4-dien-3-one | 520 mg | C(C)S[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@]1([C@H](C2)O)F)=O | C21H29FO2S
